US05854243
(Z)-1-[4-[[4-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-butenyl]oxy]-3-methoxyphenyl]ethanone
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (2.2 g, 10 mmol), K2CO3 (1.8 g, 13 mmol) and (Z)-1-[4-[(4-chloro-2-butenyl)oxy]-3-methoxyphenyl]ethanone (3.43 g, 9.7 mmol) in acetonitrile (100 ml) was heated at reflux for 11/2 hours. At the end of the reaction, the solvent was removed and the inorganics were filtered after addition of dichloromethane (250 ml). The dichloromethane solvent was removed again. The crude oil was purified on two flash chromatography columns to give a colorless oil (2.78 g). The oil was solidified by vigorously drying on a vacuum pump. Recrystallization from ethanol (10 ml) and hexane (2 ml) gave analytically pure (Z)-[4-[4-[[4-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-butenyl]oxy]-3-methoxy-phenyl]ethanone, 1.83 g,m.p.=57°-59° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 10 mmol, 2.2 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 13 mmol, 1.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (Z)-1-[4-[(4-chloro-2-butenyl)oxy]-3-methoxyphenyl]ethanone | 9.7 mmol, 3.43 g | ClC\C=C/COC1=C(C=C(C=C1)C(C)=O)OC | C13H15ClO3
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (Z)-1-[4-[[4-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-butenyl]oxy]-3-methoxyphenyl]ethanone | 2.78 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)C\C=C/COC2=C(C=C(C=C2)C(C)=O)OC)C=C1 | C25H27FN2O4
